US04866074
Step 1. 7-Bromo-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one
To a solution of 5.6 g 2H-pyrido[3,2-b]-1,4-oxazin-3-(4H)-one dissolved in 85 ml of DMF under nitrogen is added 7.96 g NBS in 50 ml of DMF. This is allowed to stir at room temperature overnight. To this is added 35 ml of water and chilled. The solid material which separates is filtered and washed with 3×100 ml H2O. This is then dried in a vac oven at 70° C. and then used directly in the next step.

reactant | 2H-pyrido[3,2-b]-1,4-oxazin-3-(4H)-one | 5.6 g | O1C2=C(NC(C1)=O)N=CC=C2 | C7H6N2O2
reactant | NBS | 7.96 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 35 ml | O | H2O
solvent | DMF | 85 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-Bromo-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | BrC1=CC=2OCC(NC2N=C1)=O | C7H5BrN2O2
